US06774138B2
3-Chloro-5-[(triethylsilyl)ethynyl]pyridine (1.4 g, 6.7 mmol) was dissolved in methanol (15 ml) and cooled to 0° C., to the resulting solution was added potassium carbonate (93 mg, 0.67 mmol). The ice bath was removed and the reaction mixture was stirred at ambient temperature for 0.5 h at which time thin layer chromatography (TLC) and GC/MS analysis indicated that the reaction was complete. The solvent was removed in vacuo and the residue was dissolved in diethyl ether (50 mL), washed with water (100 mL), brine (100 mL), dried over Na2SO4, filtered, and concentrated in vacuo to afford 3-chloro-5-ethynylpyridine (822 mg, 90% yield) which was pure by GC/MS analysis. MS (EI ionization) 137 (35Cl M+), 139 (37Cl M+). This material was carried on to the next step without further purification.

reactant | 3-Chloro-5-[(triethylsilyl)ethynyl]pyridine | 6.7 mmol, 1.4 g | ClC=1C=NC=C(C1)C#C[Si](CC)(CC)CC | C13H18ClNSi
reactant | potassium carbonate | 0.67 mmol, 93 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | 3-chloro-5-ethynylpyridine | 822 mg, 90% yield | ClC=1C=NC=C(C1)C#C | C7H4ClN
